US07799805B2
[2-(4-Chloro-3-formyl-phenyl)-ethyl]-cyclopropyl-carbamic acid tert-butyl ester
MnO2 (1.97 g, 20.4 mmol) was added to a sol. of [2-(4-chloro-3-hydroxymethyl-phenyl)-ethyl]-cyclopropyl-carbamic acid tert-butyl ester (1.33 g, 4.08 mmol) in CH3CN (41 mL). The mixture was stirred overnight at rt. The mixture was filtered over Celite, and was washed with CH3CN and CH2Cl2. Evaporation of the filtrate under reduced pressure yielded the crude title compound (1.32 g, quantitative yield) that was used further without purification. LC-MS: tR=1.05 min.

reactant | [2-(4-chloro-3-hydroxymethyl-phenyl)-ethyl]-cyclopropyl-carbamic acid tert-butyl ester | 4.08 mmol, 1.33 g | C(C)(C)(C)OC(N(C1CC1)CCC1=CC(=C(C=C1)Cl)CO)=O | C17H24ClNO3
solvent | CH3CN | 41 mL | CC#N | C2H3N
catalyst | MnO2 | 20.4 mmol, 1.97 g | O=[Mn]=O
product | [2-(4-Chloro-3-formyl-phenyl)-ethyl]-cyclopropyl-carbamic acid tert-butyl ester | 1.32 g, quantitative yield | C(C)(C)(C)OC(N(C1CC1)CCC1=CC(=C(C=C1)Cl)C=O)=O | C17H22ClNO3
